US08492378B2
methyl 3-[(4-methoxyphenyl)amino]-4-nitrobenzoate
A solution of methyl 3-fluoro-4-nitrobenzoate (10.0 g, 54.0 mmol) and p-anisidine (13.3 g, 108 mmol) in dimethylsulfoxide (300 mL) was stirred at 70° C. for 3.5 hr. The reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was recrystallized from hexane/tetrahydrofuran to give the title compound (12.9 g, yield 79%) as red crystals.

reactant | methyl 3-fluoro-4-nitrobenzoate | 54.0 mmol, 10.0 g | FC=1C=C(C(=O)OC)C=CC1[N+](=O)[O-] | C8H6FNO4
reactant | p-anisidine | 108 mmol, 13.3 g | COC1=CC=C(C=C1)N | C7H9NO
solvent | dimethylsulfoxide | 300 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 3-[(4-methoxyphenyl)amino]-4-nitrobenzoate | 12.9 g, yield 79% | COC1=CC=C(C=C1)NC=1C=C(C(=O)OC)C=CC1[N+](=O)[O-] | C15H14N2O5
